US07091353B2
[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-carbamic acid ethyl ester I-5
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.8 g, 5 mmol) was added to a stirred suspension of methyl-3-[(ethoxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate (1.54 g, 5 mmol) and aminoglutarimide hydrochloride (0.86 g, 5 mmol) in DMF (15 ml). The mixture was heated to 120° C. for 24 hours. The mixture was cooled to room temperature and poured into water (150 ml). The mixture was extracted with ethyl acetate (3×30 ml) and the ethyl acetate solution was washed with water (30 ml), brine (30 ml) and dried. Solvent was removed and the residue was purified by flash chromatography (dichloromethane/ethyl acetate 7 to 3) to give 0.84 g (45%) of the product as a white solid: mp 187–189° C.; 1H NMR (DMSO-d6) δ 11.03 (s, 1H), 7.76–7.58 (m, 4H), 5.06–4.99 (dd, J=5.4 and 12.6 Hz, 1H), 4.52 (d, J=5.9 Hz, 2H), 3.91 (q, J=7.0 Hz, 2H), 2.79–2.70 (m, 1H), 2.51–2.38 (m, 2H), 1.96–1.86 (m, 1H), 1.06 (t, J=7.0 Hz, 3H); 13C NMR (DMSO-d6) δ 172.89, 169.93, 167.55, 167.05, 156.72, 139.69, 134.91, 132.90, 131.58, 127.04, 121.97, 60.15, 48.90, 39.34, 30.98, 22.04, 14.69; Anal. Calcd. For C17H17N3O6: C, 56.82; H, 4.77; N, 11.69. Found: C, 56.94; H, 4.81; N, 11.37.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 5 mmol, 0.8 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl-3-[(ethoxycarbonylamino)methyl]-2-(methoxycarbonyl)benzoate | 5 mmol, 1.54 g | COC(C1=C(C(=CC=C1)CNC(=O)OCC)C(=O)OC)=O | C14H17NO6
reactant | aminoglutarimide hydrochloride | 5 mmol, 0.86 g | Cl.NC1C(=O)NC(CC1)=O
reactant | water | 150 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | [2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-carbamic acid ethyl ester | 0.84 g, 45% | C(C)OC(NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O)=O | C17H17N3O6
